US06740662B1
In a sealed tube were heated and stirred 2-chloro-6-methyl-3-(thiophene-2-carbonyl)pyridine and a 70% ethylamine aqueous solution. Thereafter, the reaction mixture was worked up and purified in a usual manner to obtain 2-ethylamino-6-methyl-3-(thiophene-2-carbonyl)pyridine. NMR1: 7.97 (1H, d, J=8.1 Hz), 7.62 (1H, dd, J=5.0, 1.1 Hz), 1.28 (3H, t, J=7.3 Hz).

reactant | 2-chloro-6-methyl-3-(thiophene-2-carbonyl)pyridine | ClC1=NC(=CC=C1C(=O)C=1SC=CC1)C | C11H8ClNOS
reactant | ethylamine | C(C)N | C2H7N
product | 2-ethylamino-6-methyl-3-(thiophene-2-carbonyl)pyridine | C(C)NC1=NC(=CC=C1C(=O)C=1SC=CC1)C | C13H14N2OS
